US04870074
Preparation of 2-(3-aminopropyl)-4-benzylmorpholine
A solution of 2-(2-cyanoethyl)-4-benzylmorpholine (8 g) in a mixture of ethanol (60 ml) and 28% ammonia water (4 ml) is hydrogenated over Raney nickel at 25° C. After the calculated amount of hydrogen is absorbed, the catalyst is filtered off. The filtrate is evaporated under reduced pressure to give the title compound (7 g) as an oil.

reactant | 2-(2-cyanoethyl)-4-benzylmorpholine | 8 g | C(#N)CCC1CN(CCO1)CC1=CC=CC=C1 | C14H18N2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ammonia water | 4 ml | O.N
catalyst | Raney nickel | [Ni] | Ni
product | 2-(3-aminopropyl)-4-benzylmorpholine | 7 g | NCCCC1CN(CCO1)CC1=CC=CC=C1 | C14H22N2O
